US08497264B2
A vial was charged with (S)-3-bromo-7-(3,3-dimethylbut-1-ynyl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.060 g, 0.141 mmol), 2-fluoropyridin-4-ylboronic acid (0.050 g, 0.352 mmol), potassium phosphate (0.299 g, 1.407 mmol) and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (4.98 mg, 7.04 μmol) Dioxane (2 mL) and water (0.5 mL) were added, the vial was sealed under argon and heated to 80° C. for 1 hour. The reaction mixture was then diluted with 2-MeTHF, dried over MgSO4 and concentrated. Purification of the crude residue by column chromatography [0-100% (95:5 EtOAc/MeOH)/DCM] gave (S)-7-(3,3-dimethylbut-1-ynyl)-3-(2-fluoropyridin-4-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.029 g, 0.066 mmol, 46.6% yield) as a yellow solid. [M+H]+=443.0

reactant | (S)-3-bromo-7-(3,3-dimethylbut-1-ynyl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.141 mmol, 0.060 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)C#CC(C)(C)C | C21H20BrN3O2
reactant | 2-fluoropyridin-4-ylboronic acid | 0.352 mmol, 0.050 g | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | potassium phosphate | 1.407 mmol, 0.299 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.5 mL | O | H2O
solvent | 2-MeTHF | CC1CCCO1 | C5H10O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 7.04 μmol, 2 mL, 4.98 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (S)-7-(3,3-dimethylbut-1-ynyl)-3-(2-fluoropyridin-4-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.066 mmol, 0.029 g, 46.6% yield | CC(C#CC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@]21COCC(=N1)N)C1=CC(=NC=C1)F)(C)C | C26H23FN4O2
